US09353107B2
Step-ii: N-(2-fluoro-5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)methanesulfonamide
Using similar reaction conditions as described in step-iii of example-1, N-(2-fluoro-5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)methanesulfonamide (60 mg, 0.094 mmol) was hydrolyzed with lithium hydroxide (20 mg, 0.474 mmol) in THF/methanol/water (15/5/5 mL) to yield 22 mg (48.8% yield). 1H NMR (CD3OD, 400 MHz): δ 8.467-8.462 (d, 1H), 8.36-8.35 (d, 1H), 8.22 (s, 1H), 7.95 (s, 1H), 7.84-7.80 (dd, 1H), 7.63-7.57 (m, 1H), 7.44-7.32 (m, 2H), 7.16-7.12 (d, 1H), 7.10-7.02 (m, 2H). MS: m/z=480.3 (M+1), HPLC: 92.50% in method B.

reactant | N-(2-fluoro-5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)methanesulfonamide | 0.094 mmol, 60 mg | FC1=C(C=C(C=C1)C=1C=C2C(=NC1)N(C=C2C=2C=NN(C2)CC2=CC(=CC=C2)F)S(=O)(=O)C2=CC=C(C)C=C2)NS(=O)(=O)C | C31H25F2N5O4S2
reactant | lithium hydroxide | 0.474 mmol, 20 mg | [OH-].[Li+]
solvent | THF methanol water | 5 mL | C1CCOC1.CO.O
product | N-(2-fluoro-5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)methanesulfonamide | 48.8% yield | FC1=C(C=C(C=C1)C=1C=C2C(=NC1)NC=C2C=2C=NN(C2)CC2=CC(=CC=C2)F)NS(=O)(=O)C | C24H19F2N5O2S
